US08084448B2
A. 5-(3-Benzyloxybiphenyl-4-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (200 mg, 0.45 mmol), phenylboronic acid (180 mg, 0.83 mmol), Pd(PPh3)4 (100 mg, 20 mol %) and aqueous Na2CO3 (0.83 mL of a 2M solution) in DME (3 mL) is placed in a microwave vial and heated at 110° C. for 15 min. The mixture is filtered, diluted with EtOAc and washed with 1N HCl. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.45 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | phenylboronic acid | 0.83 mmol, 180 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-Benzyloxybiphenyl-4-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1CC(NS1(=O)=O)=O)C1=CC=CC=C1 | C21H18N2O4S
